US07169809B2
Step 3: (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl acetate
To a solution of 46 g of (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-ol with 120 mmol of DMAP in 1 L of dichloromethane, 120 mmol of acetic anhydride was added dropwise. The resulting mixture was stirred at rt for 1 hr. The reaction mixture was loaded on a silica gel column and eluted with EtOAc to afford 50.5 g of the titled compound as a white solid. 1H NMR (acetone-d6, 500 M Hz): δ 7.68 (d, 2H), 7.33 (d, 2H), 7.15–7.04 (m, 5H), 5.16 (s, 2H), 4.75 (s, 2H), 3.02 (s, 3H), 1.92 (s, 3H), 0.81 (s, 9 H), -0.03 (s, 6H).

reactant | (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-ol | 46 g | [Si](C)(C)(C(C)(C)C)OC\C(=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)C)\C1=CC=CC=C1 | C23H32O4SSi
reactant | acetic anhydride | 120 mmol | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 120 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl acetate | 50.5 g | C(C)(=O)OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C25H34O5SSi
